US06022906
8c 1-[4-(3-Mercaptopropylamino)phenyl]-2-dimethylamino-2-benzyl-propan-1-one
6.6 g (0.015 mol) of 1-[4-(3-Iodopropylamino)phenyl]-2-dimethylamino-2-benzyl-propan-1-one are dissolved in 50 ml of dimethylacetamide. To the solution are added 2.42 g of potassium thioacetate and heated up to 50° C. After the reaction mixture is stirred at 50° C. for 2 h, it is poured into 100 ml of water and extracted with ethyl acetate. The organic phase is washed with water and saturated sodium chloride solution, and dried over MgSO4. After distilling off the ethyl acetate, the residue is dissolved in 70 ml of ethanol and the solution is bubbled by nitrogen for 30 min. to remove oxygen. To the solution are added 7 ml of 2 N sodium hydroxide solution and stirred at 0° C. for 30 min. After the reaction mixture is neutralized by adding 2 N hydrochloric acid solution, the resulting solution is poured into 100 ml of water and extracted with ethyl acetate. The organic phase is washed with water and saturated sodium chloride solution, and dried over MgSO4. After ethyl acetate is distilled off, the residue is purified by means of column chromatography on silica gel with ethyl acetate-hexane (1:2) as an eluent, and an oily product is obtained. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm]: 1.14 (s, 3H), 1.43 (t, 1H), 1.97 (m, 2H), 2.33 (s, 6H), 2.68 (q, 2H), 2.96 (d, 1H), 3.34-3.39 (m, 2H), 3.42 (d, 1H), 4.18 (br, 1H), 6.57 (d, 2H), 6.89-6.92 (m, 2H), 7.10-7.12 (m, 3H), 8.46 (d, 2H).

reactant | 1-[4-(3-Iodopropylamino)phenyl]-2-dimethylamino-2-benzyl-propan-1-one | 0.015 mol, 6.6 g | ICCCNC1=CC=C(C=C1)C(C(C)(CC1=CC=CC=C1)N(C)C)=O | C21H27IN2O
reactant | potassium thioacetate | 2.42 g | C(C)(=S)[O-].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | 1-[4-(3-Mercaptopropylamino)phenyl]-2-dimethylamino-2-benzyl-propan-1-one | SCCCNC1=CC=C(C=C1)C(C(C)(CC1=CC=CC=C1)N(C)C)=O | C21H28N2OS
